US08008483B2
e) Preparation of 1-[4-(methylamino)-6-(4-pyridinylamino)-1,3,5-triazin-2-yl]-N-{[2-(trifluoromethyl)phenyl]methyl}-4-piperidinecarboxamide
To a solution of 1-[4-chloro-6-(methylamino)-1,3,5-triazin-2-yl]-N-{[2-(trifluoromethyl)phenyl]methyl}-4-piperidinecarboxamide (75 mg, 0.18 mmol, 1.0 equiv) and diisopropylethylamine (DIEA, 154 □l, 0.875 mmol, 5.00 equiv) in acetonitrile (3 ml) at room temperature, 4-aminopyridine (43.0 mg, 0.349 mmol, 2.00 equiv) was added. The reaction mixture was heated to 65° C. and stirring was continued overnight. The reaction mixture was cooled to room temperature, and the solvent was removed under reduced pressure. The residue was dissolved up in 1.5 ml DMSO and purified via reverse-phase HPLC purification to afford the title compound. MS (ES+): m/e 487.1 [M+H]+.

reactant | 1-[4-chloro-6-(methylamino)-1,3,5-triazin-2-yl]-N-{[2-(trifluoromethyl)phenyl]methyl}-4-piperidinecarboxamide | 0.18 mmol, 75 mg, 1.0 equiv | ClC1=NC(=NC(=N1)NC)N1CCC(CC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C18H20ClF3N6O
reactant | diisopropylethylamine | 0.875 mmol, 5.00 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-aminopyridine | 0.349 mmol, 43.0 mg, 2.00 equiv | NC1=CC=NC=C1 | C5H6N2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-[4-(methylamino)-6-(4-pyridinylamino)-1,3,5-triazin-2-yl]-N-{[2-(trifluoromethyl)phenyl]methyl}-4-piperidinecarboxamide | CNC1=NC(=NC(=N1)NC1=CC=NC=C1)N1CCC(CC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C23H25F3N8O
